US04772600
2-(4-Chlorophenyl)-3-[2-(4-morpholinyl)-2-oxoethyl]-3H-imidazo-[4,5-b]pyridine
A stream of nitrogen gas was bubbled through a stirred suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.96 g, 0.0208 mole), 1,1'-carbonyldiimidazole (3.37 g, 0.0208 mole), and anhydrous tetrahydrofuran (100 ml) at room temperature for 3 hrs. To the resulting solution was added dropwise a solution of morpholine (1.81 g, 0.0208 mole) in tetrahydrofuran (10 ml). The reaction mixture was stirred overnight at room temperature. The tetrahydrofuran was evaporated and the crystalline residue suspended in water and filtered, giving 5.35 g (72%). Recrystallization from 95% ethanol gave 4.9 g of white flakes, mp 213°-216° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0208 mole, 5.96 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0208 mole, 3.37 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 0.0208 mole, 1.81 g | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-3-[2-(4-morpholinyl)-2-oxoethyl]-3H-imidazo-[4,5-b]pyridine | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N1CCOCC1 | C18H17ClN4O2
